US08067621B2
Step 1: 2-[Hydroxy-(2,3,6-trifluoro-phenyl)-methyl]-malonic Acid Dimethyl Ester
2,3,6-trifluorobenzoaldehyde (10.2 g, 63.8 mmol) and dimethyl malonate (8.41 g, 63.8 mmol) were dissolved in 50 mL of DMF. 3 g of K2CO3 was added and the reaction mixture was heated to 80° C. for three hours. 500 mL of EtOAc and 500 mL of water were added. The organic layer washed with saturated NH4Cl solution (200 mL), dried over Na2SO4 and concentrated. The product was purified by column chromatography using EtOAc/hex as the eluent (gradient from 0/100 to 40/60 in 40 min, 13 g, 70%). 1H NMR (CDCl3 400 MHz) δ 7.12 (m, 1H), 6.85 (m, 1H), 5.72 (d, J=9.5 Hz, 1H), 4.17 (d, J=9.5 Hz, 1H), 3.84 (s, 3H), 3.61 (s, 3H).

reactant | 2,3,6-trifluorobenzoaldehyde | 63.8 mmol, 10.2 g | FC1=C(C=O)C(=CC=C1F)F | C7H3F3O
reactant | dimethyl malonate | 63.8 mmol, 8.41 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | K2CO3 | 3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 500 mL | O | H2O
product | 2-[Hydroxy-(2,3,6-trifluoro-phenyl)-methyl]-malonic Acid Dimethyl Ester | COC(C(C(=O)OC)C(C1=C(C(=CC=C1F)F)F)O)=O | C12H11F3O5
